US07960552B2
A solution of cyclopentyl 3-[(cyclopentyloxy)methyl]-5-(1-methylethyl) -4-isoxazolecarboxylate (0.093 g, 0.29 mmol) in THF (2.8 mL) was stirred in an ice bath as a 1.5M solution of diisobutylaluminum hydride in toluene (0.42 mL, 0.63 mmol) was added dropwise. The solution was allowed to stir at room temperature for 2 hours. The solution was cooled to 0° C. before an additional portion of diisobutylaluminum hydride (0.42 mL, 0.63 mmol) was added and the solution was allowed to stir at room temperature for one hour. A 10% aqueous solution of Rochelle's salt (30 mL) was added and the solution was allowed to stir for 20 hours. The solution was extracted with ethyl acetate and the organic layer was dried with MgSO4, filtered and concentrated. The residue was purified by chromatography (silica gel, hexane to 1:1 ethyl acetate:hexanes) to provide [3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methanol (0.051 g, 74%). 1H NMR (400 MHz, DMSO-d6): δ 4.82 (t, J=5 Hz, 1H), 4.42 (s, 2H), 4.30 (d, J=5 Hz, 2H), 3.95 (m, 1H) 3.24 (septet, J=7 Hz, overlapping H2O), 1.64-1.55 (m, 6H), 1.46 (m, 2H), 1.21 (d, J=7 Hz, 6H).

reactant | cyclopentyl 3-[(cyclopentyloxy)methyl]-5-(1-methylethyl) -4-isoxazolecarboxylate | 0.29 mmol, 0.093 g | C1(CCCC1)OCC1=NOC(=C1C(=O)OC1CCCC1)C(C)C | C18H27NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 0.63 mmol, 0.42 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 0.63 mmol, 0.42 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle's salt | 30 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | [3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.051 g, 74% | C1(CCCC1)OCC1=NOC(=C1CO)C(C)C | C13H21NO3
